* SCS205KG
* SiC Schottky Barrier Diode model
* 1200V 5A
* Model Generated by ROHM
* All Rights Reserved
* Commercial Use or Resale Restricted
* Date: 2015/11/16
*****************A C
.SUBCKT SCS205KG 1 2
.PARAM T0=25
.FUNC R1(I) {40.48m*I*EXP((TEMP-T0)/155.8)}
.FUNC I1(V) {2.102f*(EXP(V/0.02760/EXP((TEMP-T0)/405.3))-1)*
+            EXP((TEMP-T0)/7.850*EXP((TEMP-T0)/-601.3))}
.FUNC I2(V) {TANH(V/0.1)*(710.4p*EXP(-V/198.3)*EXP((TEMP-T0)/54.40)+
+            26.02f*EXP(-V/63.22/EXP((TEMP-T0)/178.9))*
+            EXP((TEMP-T0)/8.493*EXP((TEMP-T0)/-600)))}
V1 1 3 0
E1 3 4 VALUE={R1(MIN(MAX(I(V1)/0.5,-500k),500k))}
V2 4 5 0
C1 5 2 0.5p
G1 4 2 VALUE={0.5*(I1(MIN(MAX(V(4,2),-5k),5))+I2(MIN(MAX(V(4,2),-5k),5)))+
+             I(V2)*(913.9*(MAX(V(4,2),0.5607)-0.5607)+
+             727.2*(1-360.9*TANH(MIN(V(4,2),0.5607)/360.9)/1.121)**-0.4987)}
R1 4 2 1T
.ENDS SCS205KG