* CDZ3_6B D model
* PKG: VMN2,Vz=3.6V at Iz=5mA,Pd=100mW
* Model Generated by ROHM
* All Rights Reserved
* Commercial Use or Resale Restricted
* Date: 2015/10/15
****************A C
.SUBCKT CDZ3_6B 1 2
.PARAM T0=25
.FUNC I1(V) {IF(V<0,-5.269E-08*((-V*(1+4.625E-04*(TEMP-T0)+3.788E-13*(TEMP-T0)**2))**7.331E+00+									
+           (-V*(1+6.025E-04*(TEMP-T0)+3.788E-13*(TEMP-T0)**2))**8.521E+00),0)}									
R1 1 2 1E15
E1 3 0 VALUE={V(1,2)}
V1 3 4 0
D1 4 0 D1
V2 3 5 0
D2 5 0 D2
G1 1 2 VALUE={I1(V(3))+I(V1)-I(V2)*IF(V(3)<0,1,0)}
.MODEL D1 D
+ IS=863.84E-18
+ N=1.0342
+ RS=.33302
+ IKF=5.6637
+ CJO=105.98E-12
+ M=.32949
+ VJ=.66058
+ ISR=72.215E-12
+ NR=3.7000
+ BV=6.6000
+ IBV=100.00E-6
+ TT=5.0000E-9
+ TBV1=0.1300E-5
+ NBVL=1.7500
+ IBVL=5.0000
.MODEL D2 D
+ IS=863.84E-18
+ N=1.0342
+ RS=.33302
+ IKF=5.6637
+ M=.32949
+ VJ=.66058
.ENDS CDZ3_6B